US07790747B2
Following general procedure B: a solution of (R)-1-phenyl-3-piperidin-4-yl-4-propyl-imidazolidin-2-one (152 mg, 0.53 mmol), 2-(3-oxo-butyl)-isoindole-1,3-dione (230 mg, 1.06 mmol), NaBH3CN (108 mg, 1.72 mmol) and glacial AcOH (8 drops) in MeOH (2.5 ml) was stirred at 60° C. for 16.5 hours. Standard workup and purification by flash column chromatography on silica (CH2Cl2/MeOH, 29:1) gave 2-{3-[4-((R)-2-oxo-3-phenyl-5-propyl-imidazolidin-1-yl)-piperidin-1-yl]-butyl}-isoindole-1,3-dione, contaminated with alcohol resulting from reduction of excess ketone (302 mg).

reactant | (R)-1-phenyl-3-piperidin-4-yl-4-propyl-imidazolidin-2-one | 0.53 mmol, 152 mg | C1(=CC=CC=C1)N1C(N([C@@H](C1)CCC)C1CCNCC1)=O | C17H25N3O
reactant | 2-(3-oxo-butyl)-isoindole-1,3-dione | 1.06 mmol, 230 mg | O=C(CCN1C(C2=CC=CC=C2C1=O)=O)C | C12H11NO3
reactant | NaBH3CN | 1.72 mmol, 108 mg | [BH3-]C#N.[Na+]
catalyst | AcOH | 8 drops | CC(=O)O | C2H4O2
solvent | MeOH | 2.5 ml | CO | CH4O
product | 2-{3-[4-((R)-2-oxo-3-phenyl-5-propyl-imidazolidin-1-yl)-piperidin-1-yl]-butyl}-isoindole-1,3-dione | O=C1N([C@@H](CN1C1=CC=CC=C1)CCC)C1CCN(CC1)C(CCN1C(C2=CC=CC=C2C1=O)=O)C | C29H36N4O3
